US07700594B2
To a suspension of 6-aminomethyl-4H-[1,2,4]triazin-5-one (250 mg, 1.98 mmol) in DMF (7.5 mL) was added 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (760 mg, 2.38 mmol), cyclohexanecarboxylic acid (305 mg, 2.38 mmol) and N,N-diisopropylethylamine (1.5 mL, 8.6 mmol). After 1 h acetonitrile (40 mL) was added to the mixture followed by dropwise addition of phosphoryl chloride (0.28 mL, 3.0 mmol) and the reaction mixture stirred at 55° C. for 1 h. The mixture was then concentrated in vacuo chromatographed over silica gel eluting with 3% MeOH in DCM, to afford 7-cyclohexylimidazo[5,1-f][1,2,4]triazin-4(3H)-one. 1H NMR (400 MHz-DMSO-d6) δ 1.24-1.91 (m, 10H), 3.08-3.16 (m, 1H), 7.68 (s, 1H) 7.88 (s, 1H) 11.76 (s, 1H); MS (ES+): m/z: 219.24 (100) [MH+]. HPLC: tR=2.44 min (OpenLynx: polar—5 min).

reactant | 6-aminomethyl-4H-[1,2,4]triazin-5-one | 1.98 mmol, 250 mg | NCC=1C(NC=NN1)=O | C4H6N4O
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 2.38 mmol, 760 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | cyclohexanecarboxylic acid | 2.38 mmol, 305 mg | C1(CCCCC1)C(=O)O | C7H12O2
reactant | N,N-diisopropylethylamine | 8.6 mmol, 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phosphoryl chloride | 3.0 mmol, 0.28 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 7-cyclohexylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C1(CCCCC1)C1=NC=C2C(NC=NN21)=O | C11H14N4O
